US04339603
The racemic 1-(2-methoxyethyl)-4-phenyl-2-imidazolidone (2.2 g) obtained is heated at 140°-150° C. for 20 hours with 60 weight percent sulfuric acid. The solution is cooed to room temperature, diluted with water and 20% potassium hydroxide to attain a pH of 10 and extracted with methylene chloride. The extracts are washed, dried and concentrated to yield racemic N-(2-amino-2-phenylethyl)-2-methoxyethylamine, [α]D20 =-0.00 (c=1, CHCl3).

reactant | racemic 1-(2-methoxyethyl)-4-phenyl-2-imidazolidone | 2.2 g | COCCN1C(NC(C1)C1=CC=CC=C1)=O | C12H16N2O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | potassium hydroxide | [OH-].[K+]
product | racemic N-(2-amino-2-phenylethyl)-2-methoxyethylamine | NC(CNCCOC)C1=CC=CC=C1 | C11H18N2O
